US08440830B2
A solution of N-boc-4-piperidone (1 eq.) and lithium di-isopropyl amide (1 eq.) in THF was stirred at −78° C. and for 2 hrs. A bromoethyl pyruvate (1.2 eq.) was added to above reaction mixture and stirred for 30 min. Reaction mixture was then quenched with ammonia solution and then extracted with ethyl acetate, dried over sodium sulphate and concentrated to dryness. The residue was then dissolved in dichoromethane and was added silica (100-200 mesh), stirred for overnight at room temperature. Crude was then purified by silica gel column chromatography to yield 5-tert-butyl 2-ethyl 1,4,6,7-tetrahydro-5H-pyrrolo[3,2-c]pyridine-2,5-dicarboxylate.

reactant | N-boc-4-piperidone | 1 eq. | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | lithium di-isopropyl amide | 1 eq. | C(C)(C)[N-]C(C)C.[Li+]
reactant | bromoethyl pyruvate | 1.2 eq. | C(C(=O)C)(=O)OCCBr | C5H7BrO3
solvent | THF | C1CCOC1 | C4H8O
product | 5-tert-butyl 2-ethyl 1,4,6,7-tetrahydro-5H-pyrrolo[3,2-c]pyridine-2,5-dicarboxylate | N1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)C(=O)OCC | C15H22N2O4
